US06664247B2
A solution of [2-(4-acetamido-phenyl-sulfanyl)-6-(4-methoxyphenyl)-pyrimidin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine (100 mg, 2.24.10−4 mol) in dichloroethane (5 mL) is treated with 1M BBr3 in DCM (896 μL, 8.96.10−4 mol). The mixture is then heated at 80° C. for 4 hours before 1M BBr3 in DCM (896 μL, 8.96.10−4 mol) is added. The reaction mixture is then heated at 80° C. for a further 3 hours. The solvent is evaporated and methanol is added to the residue to quench any residual BBr3. The solvent is evaporated in vacuo and this evaporation step is repeated 3 times. 1M HCl(8 mL) is added to the solid residue and the suspension is stirred at room temperature for 15 hours. The solid is collected by filtration and suspended in a mixture of water/EtOH (3/1, 24 mL). The mixture is neutralized with NaHCO3 and stirred for 2 hours at room temperature. The solid is then collected by filtration, rinsed with water and with diethyl ether to give [2-(4-acetamido-phenyl-sulfanyl)-6-(4-hydroxyphenyl)-pyrimidin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine.

reactant | [2-(4-acetamido-phenyl-sulfanyl)-6-(4-methoxyphenyl)-pyrimidin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | 100 mg | C(C)(=O)NC1=CC=C(C=C1)SC1=NC(=CC(=N1)NC=1NN=C(C1)C)C1=CC=C(C=C1)OC | C23H22N6O2S
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | DCM | 896 μL | C(Cl)Cl | CH2Cl2
solvent | DCM | 896 μL | C(Cl)Cl | CH2Cl2
product | [2-(4-acetamido-phenyl-sulfanyl)-6-(4-hydroxyphenyl)-pyrimidin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | C(C)(=O)NC1=CC=C(C=C1)SC1=NC(=CC(=N1)NC=1NN=C(C1)C)C1=CC=C(C=C1)O | C22H20N6O2S
